US09233098B2
5. Preparation of ethyl 2-[1-(4-aminobenzyl)-1H-indazol-3-yl]acetate
Ethyl 2-[1-(4-nitrobenzyl)-1H-indazol-3-yl]acetate (340 mg, 1.04 mmol) was dissolved in methanol (20 mL). 10% Pd/C(20 mg) was added, and reacted under hydrogen atmosphere for half an hour. TLC (petroleum ether:ethyl acetate=2:1) indicated that starting material disappeared. It was filtered to remove solid, rotate evaporated to dryness to remove the solvent. The resulting solid was used for the next step directly.

reactant | Ethyl 2-[1-(4-nitrobenzyl)-1H-indazol-3-yl]acetate | 1.04 mmol, 340 mg | [N+](=O)([O-])C1=CC=C(CN2N=C(C3=CC=CC=C23)CC(=O)OCC)C=C1 | C18H17N3O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | ethyl 2-[1-(4-aminobenzyl)-1H-indazol-3-yl]acetate | NC1=CC=C(CN2N=C(C3=CC=CC=C23)CC(=O)OCC)C=C1 | C18H19N3O2
